US20010023250A1
2-Anilino-6-methoxy-quinoxaline hydrochloride
To 2-cliloro-6-methoxy-quinoxaline (0.93 g, 4.8 mmol) under argon is added aniline (1.3 mL, 14.3 mmol). The reaction mixture is heated at 120° C. for 2 hours, then at 150° C. for 1.5 hours. The mixture is cooled and CH2Cl2 is added. The resulting suspension is stirred and the orange solid is filtered off, washed with CH2Cl2/Et2O, then stirred vigorously in H2O for 40 minutes, filtered, and washed with Et2O to provide a bright-yellow solid.

reactant | 2-cliloro-6-methoxy-quinoxaline | 4.8 mmol, 0.93 g | ClC1=NC2=CC=C(C=C2N=C1)OC | C9H7ClN2O
reactant | aniline | 14.3 mmol, 1.3 mL | NC1=CC=CC=C1 | C6H7N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Anilino-6-methoxy-quinoxaline hydrochloride | Cl.N(C1=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1)OC | InChI=1S/C15H13N3O.ClH/c1-19-12-7-8-13-14(9-12)16-10-15(18-13)17-11-5-3-2-4-6-11;/h2-10H,1H3,(H,17,18);1H
